US08293895B2
To a flask, the 5-(tert-butoxycarbonylaminomethyl)furan-2-sulfonamide (5.2 g, 19 mmol) obtained above was added. 200 mL of a mixture of trifluoroacetic acid and dichloromethane (V/V=4:1) was then added to the flask. The reaction mixture was stirred at room temperature for 4 h. After the completion of the reaction, the reaction mixture was then concentrated to give 3.3 g (98.4% yield) of 5-(aminomethyl)furan-2-sulfonamide.

reactant | 5-(tert-butoxycarbonylaminomethyl)furan-2-sulfonamide | 19 mmol, 5.2 g | C(C)(C)(C)OC(=O)NCC1=CC=C(O1)S(=O)(=O)N | C10H16N2O5S
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-(aminomethyl)furan-2-sulfonamide | 3.3 g, 98.4% yield | NCC1=CC=C(O1)S(=O)(=O)N | C5H8N2O3S
